US07947722B2
(R)-α-Methylphenylalanine
Under nitrogen stream, n-butyllithium (1.3 ml, 1.6 mol/L; n-hexane solution, 2.0 mmol) was added dropwise at −20° C. over 10 minutes to an anhydrous tetrahydrofuran solution (5 ml) containing a very small amount of 1,10-phenanthroline (5 mg or less) and diisopropylamine (0.32 ml, 2.3 mmol). After 20 minutes, an anhydrous tetrahydrofuran solution (3.5 ml) containing 1,1-dimethylethyl-(2R)-(2,6-dichlorophenyl)-5-oxo-3-((1′R)-phenylethyl)-(4S)-(phenylmethyl)tetrahydro-1H-1-imidazolecarboxylate (1.0 g, 1.9 mmol) obtained in Example 9 was added dropwise over 10 minutes. After an equipment used for the dropwise addition was washed with 0.5 ml of anhydrous tetrahydrofuran, aging was carried out at −20° C. for 20 minutes. To the mixture was added dropwise methyl iodide (405 mg, 2.9 mmol). The mixture was stirred at −20° C. for 1 hour and thereafter at 0° C. for 16 hours. The reaction mixture was diluted with ethyl acetate (50 ml), and then was washed with an aqueous solution of ammonium chloride, distilled water and saturated brine respectively twice. To the obtained organic layer, anhydrous magnesium sulfate was added for drying. After the solid product was separated by filtration, the solvent was removed by distillation in reduced pressure to obtain 1.0 g of a crude product. The crude product was led to the next step without further purification. A portion (1/10 weight) was purified by using a thin-layer silica gel plate (Merk Silica Gel Plate 60, 200×200×0.25 mm; 1/5 sheets, eluent: hexane/ethyl acetate=3/1 by volume), and NMR spectrum of the product was obtained.

reactant | n-butyllithium | 2.0 mmol, 1.6 mol/L, 1.3 ml | C(CCC)[Li]
reactant | 1,10-phenanthroline | 5 mg or less | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | diisopropylamine | 2.3 mmol, 0.32 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl iodide | 2.9 mmol, 405 mg | CI | CH3I
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (R)-α-Methylphenylalanine | 1.0 g | C[C@@](N)(CC1=CC=CC=C1)C(=O)O | C10H13NO2
